US05491148
Proceeding as in Example 1, Method A, but replacing 2,3-dimethyl benzoic acid with 2-benzylbenzoic acid and (RS)-3-amino-1-azabicyclo[2.2.2]octane with (S)-3-amino-1-azabicyclo[2.2.2]octane gave (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-benzylbenzamide.

reactant | 2-benzylbenzoic acid | C(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O2
reactant | (RS)-3-amino-1-azabicyclo[2.2.2]octane | NC1CN2CCC1CC2 | C7H14N2
reactant | (S)-3-amino-1-azabicyclo[2.2.2]octane | N[C@@H]1CN2CCC1CC2 | C7H14N2
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-benzylbenzamide | N12C[C@H](C(CC1)CC2)NC(C2=C(C=CC=C2)CC2=CC=CC=C2)=O | C21H24N2O
